US04036979
In the manner described in Example 36, N-formyl-4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine is hydrolyzed with 2N hydrochloric acid/ethanol to afford 4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine hydrochloride, melting point 230° C. to 232° C. (dec.).

reactant | N-formyl-4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine | C(=O)NC1CCC(C=2SC=CC21)=O | C9H9NO2S
reactant | hydrochloric acid ethanol | 2N | Cl.C(C)O
product | 4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine hydrochloride | Cl.O=C1CCC(C2=C1SC=C2)N | InChI=1S/C8H9NOS.ClH/c9-6-1-2-7(10)8-5(6)3-4-11-8;/h3-4,6H,1-2,9H2;1H
